US04435405
A mixture of 3-(p-cyanophenyl)-2-(2-dimethylaminoethylthio)quinoline hydrochloride (see Ex. 30, 0.65 g.), t-butanol (25 ml.) and potassium hydroxide (0.6 g.) was heated at 40° for 1 hr. Water (20 ml.) was added to the mixture and the t-butanol was evaporated. Additional water (20 ml.) was added, and the mixture was extracted with chloroform (3×30 ml.). The chloroform extract was washed with water (2×10 ml.) and dried (MgSO4). The solvent was evaporated and the residue was crystallised from ethanol. The crystalline material was dissolved in ethanol (50 ml.) and ethereal hydrogen chloride was added to the solution. The solvents were evaporated and the residue was crystallised from ethanol-diethyl ether to give 3-(p-carbamoylphenyl)-2-(2-dimethylaminoethylthio)quinoline hydrochloride, m.p. 253°-5°.

reactant | 3-(p-cyanophenyl)-2-(2-dimethylaminoethylthio)quinoline hydrochloride | 0.65 g | Cl.C(#N)C1=CC=C(C=C1)C=1C(=NC2=CC=CC=C2C1)SCCN(C)C
reactant | t-butanol | 25 ml | C(C)(C)(C)O | C4H10O
reactant | potassium hydroxide | 0.6 g | [OH-].[K+]
solvent | Water | 20 ml | O | H2O
product | 3-(p-carbamoylphenyl)-2-(2-dimethylaminoethylthio)quinoline hydrochloride | Cl.C(N)(=O)C1=CC=C(C=C1)C=1C(=NC2=CC=CC=C2C1)SCCN(C)C | InChI=1S/C20H21N3OS.ClH/c1-23(2)11-12-25-20-17(13-16-5-3-4-6-18(16)22-20)14-7-9-15(10-8-14)19(21)24;/h3-10,13H,11-12H2,1-2H3,(H2,21,24);1H
